US05912245
To a solution of 10,5 g (0.1 mole) of diethanolamine in 40 ml of water 6.11 g (0.02 mole) of 1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxalinesulfonyl chloride are added under stirring, the reaction mixture is stirred at room temperature for 6 hours and then allowed to stand for 16 hours. The separated crystals are filtered off, washed with water, dried and recrystallized from acetone. Thus 3.90 g (52%) of N,N-bis(2-hydroxyethyl)-1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxaline sulfonamide are obtained, m.p.: 310-321° C.

reactant | diethanolamine | 0.1 mole, 10,5 g | N(CCO)CCO | C4H11NO2
reactant | water | 0.02 mole, 40 ml, 6.11 g | O | H2O
reactant | 1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxalinesulfonyl chloride | [N+](=O)([O-])C1=C(C=C2NC(C(NC2=C1)=O)=O)S(=O)(=O)Cl | C8H4ClN3O6S
product | N,N-bis(2-hydroxyethyl)-1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxaline sulfonamide | 3.90 g, 52% | OCCN(S(=O)(=O)C=1C=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O)CCO | C12H14N4O8S
